US05866724
Into a 4 liter four-necked flask were charged 49.66 g of 4,4'-methylenebis[2-(2-hydroxy-5-methylbenzyl)-3,6-dimethylphenol], 9.60 gof sodium hydroxide, 167.1 g of water and 16.7 g of tetrahydrofurane. Whilestirring at 40° C., 48.7 g of 37% formaldehyde was added dropwise thereto over one hour, and the reaction was conducted for 5 more hours. After completion of the reaction, 19.2 g of 90% aqueous acetic acid solution was added for neutralization, then cooled to 25° C. and filtered. The filtered product thus obtained was rinsed with 100 g of deionized water and dried a whole day and night at 45° C. under reduced pressure to obtain 48.2 g of 4,4'-methylenebis[2-(2-hydroxy-3-hydroxymethyl-5-methylbenzyl)-3,6-dimethylphenol].

reactant | 4,4'-methylenebis[2-(2-hydroxy-5-methylbenzyl)-3,6-dimethylphenol] | 49.66 g | C(C1=C(C(=C(C(=C1)C)O)CC1=C(C=CC(=C1)C)O)C)C1=C(C(=C(C(=C1)C)O)CC1=C(C=CC(=C1)C)O)C | C33H36O4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 167.1 g | O | H2O
reactant | formaldehyde | 48.7 g | C=O | CH2O
reactant | acetic acid | 19.2 g | C(C)(=O)O | C2H4O2
solvent | tetrahydrofurane | 16.7 g | O1CCCC1 | C4H8O
product | 4,4'-methylenebis[2-(2-hydroxy-3-hydroxymethyl-5-methylbenzyl)-3,6-dimethylphenol] | 48.2 g | C(C1=C(C(=C(C(=C1)C)O)CC1=C(C(=CC(=C1)C)CO)O)C)C1=C(C(=C(C(=C1)C)O)CC1=C(C(=CC(=C1)C)CO)O)C | C35H40O6
